US07101886B2
N-[5-CHLORO-4-(2-CHLORO-ACETYL)-2-METHYL-PHENYL]-ACETAMIDE
To N-(5-Chloro-2-methyl-phenyl)-acetamide (30 g, 163.37 mmol) in carbondisulfide (1200 mL) was added chloroacetylchloride (19.50 mL, 245.05 mmol) followed by anhydrous aluminum chloride powder (65.35 g, 490.11 mmol) in one portion at rt. The reaction was heated to reflux for 3 h after which the reaction was cooled and the solvent decanted. The remaining residue was carefully hydrolyzed with cold H2O (500 mL) with vigorous stirring to give a white/gray solid suspension which was collected by filtration and dried in vacuo to give desire product (32.15 g, 123.6 mmol). Yield=76%; 1H NMR (400 MHz, CDCl3) δ 8.28 (bs, 1H, NH), 7.47 (s, 1H), 7.24 (s, 1H), 4.73 (s, 2H), 2.25 (s, 3H).

reactant | N-(5-Chloro-2-methyl-phenyl)-acetamide | 163.37 mmol, 30 g | ClC=1C=CC(=C(C1)NC(C)=O)C | C9H10ClNO
reactant | chloroacetylchloride | 245.05 mmol, 19.50 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | aluminum chloride | 490.11 mmol, 65.35 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | carbondisulfide | 1200 mL | C(=S)=S | CS2
product | N-[5-CHLORO-4-(2-CHLORO-ACETYL)-2-METHYL-PHENYL]-ACETAMIDE | 123.6 mmol, 32.15 g, Yield=76% | ClC=1C(=CC(=C(C1)NC(C)=O)C)C(CCl)=O | C11H11Cl2NO2
